US05866379
A further aspect of the present invention is directed to a process for the preparation of salts of 2-hydroxy-4-(methylthio)-butanoic acid from 2-hydroxy-4-(methylthio)-butanenitrile. 2-Hydroxy-4-(methylthio)-butanenitrile is enzymatically hydrated to form 2-hydroxy-4-(methylthio)-butaneamide, and the resulting 2-hydroxy-4-(methylthio)-butaneamide is hydrolyzed in a basic solution to form a salt of 2-hydroxy-4-(methylthio)-butanoic acid.

reactant | 2-hydroxy-4-(methylthio)-butanoic acid | OC(C(=O)O)CCSC | C5H10O3S
reactant | 2-hydroxy-4-(methylthio)-butanenitrile | OC(C#N)CCSC | C5H9NOS
product | 2-hydroxy-4-(methylthio)-butaneamide | OC(C(=O)N)CCSC | C5H11NO2S
